US08168634B2
N-(2-Iodo-4,5-dimethoxyphenyl)acetamide
To a solution of N-(3,4-dimethoxyphenyl)acetamide (6.3 g, 32.0 mmol) in DCM (100 mL) and AcOH (6.5 mL) was added a solution of iodine monochloride (6.3 g, 39 mmol) in DCM (50 mL) dropwise. The reaction mixture was stirred at r.t. for 16 h. Aqueous sat. Na2S2O3 (500 mL) was added. The organic fraction was separated, washed with water (2×250 mL), then brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification by column chromatography (SiO2, 50% EtOAc/hexanes) gave the title compound (7.5 g, 72%) as a dark solid. LCMS (ES+) 321.8 (M+H)+, RT 2.67 minutes (Method 4).

reactant | N-(3,4-dimethoxyphenyl)acetamide | 32.0 mmol, 6.3 g | COC=1C=C(C=CC1OC)NC(C)=O | C10H13NO3
reactant | iodine monochloride | 39 mmol, 6.3 g | ICl | ClI
reactant | Na2S2O3 | 500 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 6.5 mL | CC(=O)O | C2H4O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Iodo-4,5-dimethoxyphenyl)acetamide | 7.5 g, 72% | IC1=C(C=C(C(=C1)OC)OC)NC(C)=O | C10H12INO3
